US06410562B1
Ethyl-7-bromo-3-hydroxy-2-naphthoate
A solution of 81 g (0.3 mol) of 7-bromo-3-hydroxy-2-naphthoic acid in 600 ml dried EtOH and 60 ml conc. sulfuric acid was heated at reflux for 16 hours. The mixture was cooled to room temperature and treated with water (4000 ml) and neutralised with NaHCO3. The solid was separated by filtration and dried in a drying chamber afforded 75.3 g (85%) of the titled compound.

reactant | 7-bromo-3-hydroxy-2-naphthoic acid | 0.3 mol, 81 g | BrC1=CC=C2C=C(C(=CC2=C1)C(=O)O)O | C11H7BrO3
reactant | water | 4000 ml | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | EtOH | 600 ml | CCO | C2H6O
solvent | sulfuric acid | 60 ml | S(O)(O)(=O)=O | H2O4S
product | Ethyl-7-bromo-3-hydroxy-2-naphthoate | 75.3 g, 85% | C(C)OC(=O)C1=CC2=CC(=CC=C2C=C1O)Br | C13H11BrO3
